Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamides)
 
Attending: ___
 
___ Complaint:
LLQ abdominal pain  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with h/o diverticulosis and 
diverticulitis per report several years ago presenting with LLQ 
abdominal pain x ___ days associated with fever to 101.6 today, 
chills, and decreased appetite. Describes pain as crampy, ___, 
intermittent, worse with any movement, and similar to prior 
episode of diverticulitis. Last BM yesterday was normal without 
melena, hematochezia or diarrhea. She had taken 600mg ibuprofen 
at home with mild relief. She saw her PCP today, Dr. ___ 
was noted to have elevated WBC and ? ST changes so was sent to 
ED. She also had some nonspecific ST changes in clinic which 
were not present on ECG in ED.  
.  
In the ED, initial VS were: 98.2 90 134/71 16 98  
Patient was given Ciprofloxacin 400mg IV, Flagyl 500mg, Ativan 
and Morphine. She had CT consistent with diverticulitis. Vitals 
on transfer were 99.2 88 140/51 76 97%RA  
.  
On the floor, pt reports pain now ___.
.
Review of systems:  
(+) Per HPI  
(-) Denies recent weight loss or gain. Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denied cough, shortness of 
breath. Denied chest pain or tightness, palpitations. Denied 
nausea, vomiting, diarrhea, constipation or abdominal pain. No 
recent change in bowel or bladder habits. No dysuria. Denied 
arthralgias or myalgias.   

 
Past Medical History:
Diverticulosis  
Diverticulitis treated with PO abx as outpatient several years 
ago per pt report  
L kidney complex cyst  
Gallstones  
Asthma, recently on PO steroids  
Lyme Disease ___
 
Social History:
___
Family History:
Mother with renal cell carcinoma. Father with a history of 
colonic polyps. Paternal grandparent with colon cancer. No 
family history of IBD
 
Physical Exam:
Vitals: T:99.1 BP:128/70 P:95 R:18 O2:96%RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, TTP LLQ, bowel sounds present, no rebound 
tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CN ___ intact. AAOx3

Exam at discharge:
afebrile,  BP 120s/70s  HR ___  98% RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, mildly TTP LLQ, bowel sounds present, no rebound 
tenderness or guarding, no organomegaly; improved abdominal exam 
 
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CN ___ intact. AAOx3

 
Pertinent Results:
___ 07:30PM   ___ PTT-28.2 ___
___ 07:30PM   PLT COUNT-320
___ 07:30PM   NEUTS-77.0* LYMPHS-13.8* MONOS-7.2 EOS-1.8 
BASOS-0.3
___ 07:30PM   WBC-18.9*# RBC-4.69 HGB-14.4 HCT-41.2 MCV-88 
MCH-30.6 MCHC-34.9 RDW-13.2
___ 07:30PM   estGFR-Using this
___ 07:30PM   GLUCOSE-95 UREA N-18 CREAT-1.0 SODIUM-136 
POTASSIUM-4.0 CHLORIDE-100 TOTAL CO2-24 ANION GAP-16
___ 07:31PM   LACTATE-1.1
___ 06:25AM   PLT COUNT-270
___ 06:25AM   NEUTS-73.4* LYMPHS-15.0* MONOS-8.9 EOS-2.4 
BASOS-0.3
___ 06:25AM   WBC-14.3* RBC-4.31 HGB-12.7 HCT-38.3 MCV-89 
MCH-29.5 MCHC-33.2 RDW-13.7
___ 06:25AM   CALCIUM-8.9 PHOSPHATE-3.5 MAGNESIUM-1.8
___ 06:25AM   GLUCOSE-120* UREA N-13 CREAT-0.8 SODIUM-139 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-24 ANION GAP-15

White count trend  20 -> 18.9 -> 14.3 -> 11.7 -> 11.6

Blood cultures from ___ and ___ continue to be pending.

CT abdomen/pelvis:
IMPRESSION:  
1. Acute sigmoid diverticulitis with some fluid adjacent to the 
inflamed 
diverticulum. No drainable fluid collection or frank abscess at 
this time. 
  
2. Gallbladder is filled with noncalcified stones. Gallbladder 
wall 
thickening at the neck and wall thickening and 
narrowing/stricture at the 
fundus, stable since ___, likely represents chronic 
cholecystitis but 
underlying neoplasm can not be excluded. 
  
3. Stable liver and renal cyst and hyperenhancing liver lesion 
most compatible with hemangioma. 
  
4. Large fibroid uterus, 8 cm in diameter, little change from 
prior. 

 
Brief Hospital Course:
Assessment and Plan: ___ year old female with h/o diverticulosis 
noted on colonoscopy one year ago and diverticulitis in past now 
presenting with LLQ abdominal pain and history, physical 
andimaging c/w uncomplicated diverticulitis  
.  
# Diverticulitis:  No perforation, abscess, fistula or 
obstruction to suggest complicated.  Exam notable for absence of 
peritoneal signs, pain improving.  White count improved through 
course.  Patient initially was managed with bowel rest, IVF and 
IV cipro and flagyl.  As her exam and white count improved, diet 
was reintroduced, and tolerated well.  The patient did not 
require medication for pain control.  The patient was discharged 
on ___ with the intent to complete a 10 day course of PO 
ciprofloxacin and metronidazole.
.
# Gallbladder thickening on CT:  Gallbladder is filled with 
noncalcified stones. Gallbladder wall thickening at the neck and 
wall thickening and narrowing/stricture at the fundus, stable 
since ___, likely represents chronic cholecystitis.  Patient 
had no evidence, although the interpreter "could not exclude 
underlying neoplasm".  The patient will follow up with her PCP.
.  
# Asthma: Currently asymptomatic. Continued flovent and 
albuterol prn  
.  
# FEN: IVF, replete electrolytes  
.  
# Prophylaxis:  
-DVT ppx with SC heparin  
-Bowel regimen  
-Pain management with  
.  
# Access: peripherals  
.  
# Code: Confirmed full but would not want heroic measures if 
circumstances were irreversible  
.  
# Communication: Patient 
 
Medications on Admission:
Multivitamin PO daily  
Omega 3 fatty acids  
Albuterol prn  
Flovent 110mcg in BID  
Lecithin  
Had been on prednisone 2 weeks prior 
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
2. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
3. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q6H (every 6 hours) as needed for SOB.  
4. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 1 weeks.
Disp:*15 Tablet(s)* Refills:*0*
5. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO Q8H (every 
8 hours) for 1 weeks.
Disp:*25 Tablet(s)* Refills:*0*
6. Multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
7. Omega-3 Fatty Acids 1,000 mg Capsule Sig: One (1) Capsule PO 
once a day.  
8  Lecithin
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
-Diverticulitis

Secondary Diagnoses:
-Diverticulosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital because of concern about an 
episode of diverticulitis and the discomfort and nausea you were 
having.  We treated you with antibiotics and your symptoms 
improved.  We are discharging you to complete your recovery.  
You will continue your antibiotics to help resolve this 
infection.  You were discharged on ___ in improved 
condition.

Please see below for your follow up appointments.

The following changes have been to your medications:
Please continue ciprofloxacin 400 mg by mouth twice a day for 7 
days
Please continue metronidazole 500 mg by mouth three times a day 
for 7 days
 
Followup Instructions:
___